US08138197B2
Production of 6-[(1-methyl-1H-pyrazol-5-yl)amino]-1′-{[2-phenyl-6-(tetrazol-5-yl)pyridin-4-yl]carbonyl}spiro[chroman-2,4′-piperidin]-4-one
6-[(1-Methyl-1H-pyrazol-5-ylamino)]spiro[chroman-2,4′-piperidin]-4-one hydrochloride (117 mg), 1-hydroxybenzotriazole monohydrate (53 mg), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (68 mg), triethylamine (94 μL) and water (1 mL) were added in that order to a DMF (3 mL) solution of 2-phenyl-6-(tetrazol-5-yl)-isonicotinic acid (75 mg), and stirred at 60° C. for 1 hour. Water was added to the reaction liquid, and the resulting precipitate was taken out through filtration, washed with hexane/ethyl acetate=2/1, and dried to obtain the title compound as a yellow solid. 1H-NMR (400 MHz, DMSO-d6) δ: 8.37 (2.0H, d, J=6.8 Hz), 8.17 (1.0H, s), 8.08 (1.0H, br s), 7.93 (1.0H, s), 7.61-7.50 (3.0H, m), 7.32 (1.0H, d, J=2.0 Hz), 7.18-7.12 (2.0H, m), 6.99 (1.0H, d, J=8.4 Hz), 5.89 (1.0H, s), 4.31-4.27 (1.0H, m), 3.60 (3.0H, s), 3.50-3.20 (3.0H, m), 2.82 (2.0H, s), 2.12-2.05 (1.0H, m), 1.90-1.78 (3.0H, m). MS [M−H]+=560.

reactant | 6-[(1-Methyl-1H-pyrazol-5-ylamino)]spiro[chroman-2,4′-piperidin]-4-one hydrochloride | 117 mg | Cl.CN1N=CC=C1NC=1C=C2C(CC3(CCNCC3)OC2=CC1)=O
reactant | 1-hydroxybenzotriazole monohydrate | 53 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 68 mg | Cl.CN(CCCN=C=NCC)C
reactant | 2-phenyl-6-(tetrazol-5-yl)-isonicotinic acid | 75 mg | C1(=CC=CC=C1)C=1C=C(C(=O)O)C=C(N1)C1=NN=NN1 | C13H9N5O2
solvent | Water | O | H2O
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | 1 mL | O | H2O
solvent | triethylamine | 94 μL | C(C)N(CC)CC | C6H15N
product | 6-[(1-methyl-1H-pyrazol-5-yl)amino]-1′-{[2-phenyl-6-(tetrazol-5-yl)pyridin-4-yl]carbonyl}spiro[chroman-2,4′-piperidin]-4-one | CN1N=CC=C1NC=1C=C2C(CC3(CCN(CC3)C(=O)C3=CC(=NC(=C3)C3=NN=NN3)C3=CC=CC=C3)OC2=CC1)=O | C30H27N9O3
